US09227963B2
tert-butyl 8-(benzo[d]thiazol-2-ylcarbamoyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate
To a solution of 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid (6.8 g) and benzo[d]thiazol-2-amine (5.52 g) in dichloromethane (80 mL) was added 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride (9.4 g) and 4-dimethylaminopyridine (6 g). The mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane (400 mL), washed with 5% aqueous HCl, water, and brine, and dried over Na2SO4. The mixture was filtered and the filtrate was concentrated under reduced pressure to provide the title compound.

reactant | 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid | 6.8 g | C(C)(C)(C)OC(=O)N1CC2=C(C=CC=C2CC1)C(=O)O | C15H19NO4
reactant | benzo[d]thiazol-2-amine | 5.52 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 9.4 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | tert-butyl 8-(benzo[d]thiazol-2-ylcarbamoyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | S1C(=NC2=C1C=CC=C2)NC(=O)C=2C=CC=C1CCN(CC21)C(=O)OC(C)(C)C | C22H23N3O3S
